US07585881B2
1-{1-[3-(3-Chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-ethyl}-1-cyclopropyl-2-ethyl-3-methyl-isothiourea
1-{1-[3-(3-Chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-ethyl}-1-cyclopropyl-3-methyl-thiourea (287 mg, 0.85 mmol) was mixed with iodoethane (484 mg, 3.4 mmol) in MeOH (5 mL) at 60° C. overnight. The reaction mixture was concentrated and basified with saturated sodium carbonate, then extracted with DCM. The organic layer was dried, concentrated to give the title compound (298 mg, 96 %). 1H-NMR: 8.11 (s, 1H), 8.01 (d, 1H), 7.51 (d, 1H), 7.46 (t, 1H), 5.51 (m, 1H), 3.27 (s, 3H), 2.85-3.00 (m, 2H), 2.60 (m, 1H), 1.79 (d, 3H), 1.30 (t, 3H), 0.83 (m)

reactant | 1-{1-[3-(3-Chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-ethyl}-1-cyclopropyl-3-methyl-thiourea | 0.85 mmol, 287 mg | ClC=1C=C(C=CC1)C1=NOC(=N1)C(C)N(C(=S)NC)C1CC1 | C15H17ClN4OS
reactant | iodoethane | 3.4 mmol, 484 mg | ICC | C2H5I
solvent | MeOH | 5 mL | CO | CH4O
product | 1-{1-[3-(3-Chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-ethyl}-1-cyclopropyl-2-ethyl-3-methyl-isothiourea | 298 mg, 96 % | ClC=1C=C(C=CC1)C1=NOC(=N1)C(C)N(C(SCC)=NC)C1CC1 | C17H21ClN4OS
